US06177459B1
At 20 to 30° C., 15.6 g (0.06 mol) of 2-(2-methylphenoxymethyl)benzoyl chloride (EP-A 493 711, page 22) are added dropwise to a solution of 8.53 g (0.12 mol) of pyrrolidine in 40 ml of t-butyl methyl ether. The mixture is admixed with water and the organic phase is separated off, dried over sodium sulphate and concentrated under reduced pressure. The residue crystallizes when stirred with diisopropyl ether. 15 g (84.6% of theory) of N-[2-(2-methylphenoxymethyl)-benzoyl]-pyrrolidine are obtained.

reactant | 2-(2-methylphenoxymethyl)benzoyl chloride | 0.06 mol, 15.6 g | CC1=C(OCC2=C(C(=O)Cl)C=CC=C2)C=CC=C1 | C15H13ClO2
reactant | pyrrolidine | 0.12 mol, 8.53 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | t-butyl methyl ether | 40 ml | COC(C)(C)C | C5H12O
product | N-[2-(2-methylphenoxymethyl)-benzoyl]-pyrrolidine | 15 g, 84.6% | CC1=C(OCC2=C(C(=O)N3CCCC3)C=CC=C2)C=CC=C1 | C19H21NO2
